US05525742
CHART B, Step B-1. To a solution of 3-azido-5-iodoaniline (A-4, 2.42 g, 9.31 mmol) in chloroform (8 mL) is added diphenyl cyanocarbonimidate (2.21g, 9.31 mmol). The solvent is allowed to evaporate at a temperature of 70° C. overnight. The resulting solid is washed with ether, filtered and dried to afford 3.558 g of N-(3-azido-5-iodophenyl)-N'-cyanocarbamimidic acid, phenyl ester (B-1) which is used without further purification. A small analytical sample is recrystallized from ethyl acetate in hexane. Mp=195° C. (dec). IR (mull) 3094, 3078, 2954, 2925, 2867, 2854, 2208, 2121, 2106, 1652, 1600, 1590, 1565, 1504, 1491, 1446, 1433, 1401, 1302, 1219, 1195, 833 cm -1 ; 1H NMR (DMSO) δ10.57 (bs (1 H), 7.50 (t, 1 H, J=2 Hz), 7.28 (m, 2 H), 7.10 (m, 5 H); 13C NMR (DMSO) δ151.4, 141.3, 138.6, 129.9, 128.2, 126.4, 124.6, 120.8, 113.6, 95.0; Mass Spec (70eV, EI) m/z 404 (parent), 376, 249 (base), 222, 207, 194, 155, 145, 128, 118, 103, 94, 77, 65, 51; Exact mass calculated for C14H9IN6O: 403.9884. Found: 403.9877. Melt solvate: 3.6% ethyl acetate; Analysis calculated for C14H9IN6O plus 3.6% C4H8O2 : C, 42.07; H, 2.49; N, 20.04; Found; C, 41.95; H, 2.25; N, 19.76.

reactant | 3-azido-5-iodoaniline | 9.31 mmol, 2.42 g | N(=[N+]=[N-])C=1C=C(N)C=C(C1)I | C6H5IN4
reactant | diphenyl cyanocarbonimidate | 9.31 mmol, 2.21g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(3-azido-5-iodophenyl)-N'-cyanocarbamimidic acid, phenyl ester | 3.558 g | N(=[N+]=[N-])C=1C=C(C=C(C1)I)NC(OC1=CC=CC=C1)=NC#N | C14H9IN6O
